US07179823B1
A mixture of ethyl(E)-3-[1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazol-4-yl]propenoate (6.61 g), 5% palladium-carbon (13.00 g), ethanol (150 ml), and tetrahydrofuran (150 ml) was stirred for one hour at room temperature under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The crystals obtained were collected by filtration to yield ethyl 3-[1-(4-hydroxybenzyl)-3-hydroxy-1H-pyrazol-4-yl]propionate (2.98 g, yield: 89%). This was recrystallized from ethyl acetate-hexane. Melting point: 143–144° C.

reactant | ethyl(E)-3-[1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazol-4-yl]propenoate | 6.61 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)OCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C36H34N2O5
reactant | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 13.00 g | [C].[Pd]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-(4-hydroxybenzyl)-3-hydroxy-1H-pyrazol-4-yl]propionate | 2.98 g, yield: 89% | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)O)C=C1 | C15H18N2O4
